US07342031B2
To 3 g of N,N-dimethylformamide, 350 mg of 5-chloro-3-benzyloxymethylthio-1,2,4-thiadiazole and 169 mg of 2,2-dimethyl-1,3-dioxolane-4-methanol were dissolved, and added 56 mg of sodium hydride (60% in oil) at about 0° C., followed by stirring at same tempareture for 2 hours. Then, to the reaction mixture, t-butylmethylether and saturated sodium chloride aqueous solution were added, and separeted to two layers. The organic layer was dried by anhydrous sodium salfate, and concentrated. The residue obtaind was subjected to column chromatography to obtain 330 mg of 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-benzyloxymethylthio-1,2,4-thiadiazole.

reactant | 5-chloro-3-benzyloxymethylthio-1,2,4-thiadiazole | 350 mg | ClC1=NC(=NS1)SCOCC1=CC=CC=C1 | C10H9ClN2OS2
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 169 mg | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | N,N-dimethylformamide | 3 g | CN(C=O)C | C3H7NO
product | 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-benzyloxymethylthio-1,2,4-thiadiazole | 330 mg | CC1(OCC(O1)COC1=NC(=NS1)SCOCC1=CC=CC=C1)C | C16H20N2O4S2
